US05891909
a) 3-(2-Methoxy-5-methylphenylsulfonyloxy)-5-methylphenol
To a solution of 1.00 g (8.05 mmol) of orcinol monohydrate and 1.63 g (7.38 mmol) of 2-methoxy-m-toluenesulfonyl chloride in 20 mL of diethyl ether was added 20 mL of saturated aqueous NaHCO3 and the biphasic mixture stirred vigorously at ambient temperature for 3 days. The layers were separated and the aqueous layer extracted with 2×30 mL of ethyl acetate. The combined organic layers were washed with 50 mL of brine, dried (Na2SO4) and concentrated to give 2.2 g of an orange syrup. Crystallization from dichloromethane-hexane (two crops) afforded 1.24 g (54%) of the title compound as a light orange powder: 1H-NMR (300 MHz; CDCl3) δ 7.62 (d, 1 H, J=2.0 Hz), 7.40 (m, 1 H), 6.96 (d, 1 H, J=8.5 Hz), 6.52 (m, 2 H), 6.42 (t, 1 H, J=2.1 Hz), 5.13 (s, 1 H), 3.96 (s, 3 H), 2.29 (s, 3 H) and 2.23 (s, 3 H).

reactant | orcinol monohydrate | 8.05 mmol, 1.00 g | O.C1(=CC(O)=CC(C)=C1)O
reactant | 2-methoxy-m-toluenesulfonyl chloride | 7.38 mmol, 1.63 g | COC1=C(C=CC=C1S(=O)(=O)Cl)C | C8H9ClO3S
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 3-(2-Methoxy-5-methylphenylsulfonyloxy)-5-methylphenol | 2.2 g | COC1=C(C=C(C=C1)C)S(=O)(=O)OC=1C=C(C=C(C1)C)O | C15H16O5S
